US07994205B2
2-nitro-1-phenylpropyl Acetate
To a solution of 2-nitro-1-phenylpropan-1-ol (32 g) and acetic anhydride (22 mL) in diethyl ether (300 mL) was added 4-dimethylaminopyridine (0.61 g) under ice-cooling, and the mixture was stirred at room temperature for 1 hr. Methanol was added to the reaction mixture, and the mixture was further stirred for 30 min and concentrated under reduced pressure. Water was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give the title compound as a yellow oil (yield 34 g, 86%).

reactant | 2-nitro-1-phenylpropan-1-ol | 32 g | [N+](=O)([O-])C(C(O)C1=CC=CC=C1)C | C9H11NO3
reactant | acetic anhydride | 22 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | Methanol | CO | CH4O
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
catalyst | 4-dimethylaminopyridine | 0.61 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 2-nitro-1-phenylpropyl Acetate | yield 34 g, 86% | C(C)(=O)OC(C(C)[N+](=O)[O-])C1=CC=CC=C1 | C11H13NO4
